Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ Right and Left Heart Cardiac Catheterization

 
History of Present Illness:
___ y/o M PMH significant for systolic CHF (EF ___ based on 
stress mibi) who is being admitted for R and LHC and subsequent 
diuresis.

The patient had his initial CHF exacerbation in ___ where 
afterwards he was followed by Dr. ___ at ___ where he had his 
carvedilol increased to 25mg BID and spironlactone was stared. 
In ___, he had a work up for dilated cardiomoypathy with a 
negative HIV, HCV, ferritin, and ___. He then underwent stress 
mibi that showed no reversible ischemia, but an EF of ___.

He then presented to the ___ ED on ___ with a CHF exacerbation 
where diuretic and carvedilol were uptitrated. Discharged home 
with cardiology f/u. Returned to clinic today where Dr. ___ 
___ him to be in the midst of a CHF exacerbation. Also c/o CP 
raising concern for ACS. No concerning changes on ECG and trop 
x1 negative at ___. Transferred to ___ for urgent cath. 
 
At ___, the patient underwent cath. Non-obstructing CAD found. CI 
was low at 1.8 with high filling pressures. Recieved a small 
dose of lasix. Also had high BPs (170-180s) and was started on a 
nitro drip. Admitted to the ___ service.  
ROS: (+) as per HPI. A 12-point ROS is otherwise negative
 
Past Medical History:
1. Congestive heart failure, currently ___ Heart 
Association class III.  
2. Coronary artery disease, status post inferior myocardial 
infarction.  
3. CArdiomyopathy, EF ___ by nuclear imaging, cause not yet 
established (suspect ischemic)  
3. Hypertension.  
4. Hyperlipidemia.  
5. BPH  
 
 
Social History:
___
Family History:
Father died at ___; he may have had heart problems. He does not 
know the specifics. There is no family history of sudden death.
 
Physical Exam:
ADMISSION EXAM:
=================
VS: 97.6 ___ 18 100%RA 
Wt 92.5kg
I/O 760/3,000
General: NAD, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI  
Neck: supple, JVD up 12cm
CV: regular rhythm, no m/r/g  
Lungs: bibasilar crackles  
Abdomen: soft, NT/ND, BS+  
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally  
Neuro: moving all extremities grossly  

DISCHARGE EXAM:
===================
VS: 98.2 91/56-134/89 ___ 95%RA 
Wt 89.3kg
I/O 2400/2300+
General: NAD, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI  
Neck: supple, JVP at 10
CV: regular rhythm, no m/r/g  
Lungs: clear without crackles or wheeze
Abdomen: soft, NT/ND, BS+  
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally  
Neuro: moving all extremities grossly  

 
Pertinent Results:
ADMISSION LABS:
==================
___ 07:25AM BLOOD WBC-4.0 RBC-3.71* Hgb-11.1* Hct-33.0* 
MCV-89 MCH-29.8 MCHC-33.5 RDW-13.9 Plt ___
___ 07:25AM BLOOD Glucose-93 UreaN-14 Creat-1.4* Na-141 
K-3.1* Cl-102 HCO3-27 AnGap-15

DISCHARGE LABS:
==================
___ 03:40AM BLOOD WBC-4.6 RBC-4.31* Hgb-13.0* Hct-38.1* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.9 Plt ___
___ 06:50AM BLOOD Glucose-99 UreaN-30* Creat-2.3* Na-137 
K-3.7 Cl-99 HCO3-29 AnGap-13
___ 06:50AM BLOOD Mg-2.1
___ 06:45AM BLOOD PEP-NO SPECIFI ___ FreeLam-14.1 
Fr K/L-1.23

IMAGING:
==============
CXR
As compared to the previous radiograph, the signs of pulmonary 
edema have progressed, as communicated in a wet read from the 
time of image acquisition.  This progression is documented by an 
increase in vascular diameters and an increase in interstitial 
markings.  In addition, size of the cardiac silhouette also 
appears to have increased.  There are no pleural effusions.  
Minimal areas of atelectasis at the right lung bases.  No 
pneumothorax. 

CARDIAC CATH:
=============
Cardiac Output Results
PhaseFick
C.O.(l/min)Fick
C.I. (l/min /m2)TD
CO (l/min)TD
CI (l/min/m2)
Baseline3.871.79

Hemodynamic Measurements (mmHg)
Baseline
SiteSysDiasEndMeanA WaveV WaveHR
___                              ___
PCW                             ___                              ___                              ___
LV                              ___                              ___

Contrast Summary
ContrastTotal (ml)
Optiray (ioversol 320 mg/ml)90

Radiation Dosage
Effective Equivalent Dose Index (mGy)921.853

Radiology Summary
Total Runs
Total Fluoro Time (minutes)13.9

Findings

ESTIMATED blood loss: < 25 cc

Hemodynamics (see above): 

Coronary angiography:  right dominant

LMCA:  There was 30% stenosis in the left main

LAD:   The LAD was a medium sized vessel with a minor lumen
irregularities.   The ___ diagonal branch had a 50-60% stenosis
in mid vessel.

LCX:  The left circumflex had a 60% stenosis in its ___ OMB. 
This was a large caliber vessel that supplied the posterior 
wall.
The distal LCx had diffuse 70% disease prior to a small-medium
left posterolateral branch.  There was a 80% stenosis of a 
branch
vessel the supplied the inferior groove. 

RCA:   The RCA was a large caliber vessel.  There were moderate
lumen irregularities in the mid segment.   The PDA was a large
caliber vessel with a 40-50% stenosis in its mid portion.   The
___ posterolateral branch was a small caliber vessel and had a
50% stenosis in its mid portion.

Interventional details

The procedure was performed from the right radial artery and
right brachial artery without complications.

Assessment & Recommendations
1.Severe systemic hypertension with severe pulmonary 
hypertesion
2.Intermediate coronary artery disease (60% OMB; 80% very 
distal
OMB; 50-60% diagonal branch)
3.Diuresis with aggressive medical therapy
4.Consider PCI of the OMB if chest pain persists after BP
controlled

TRANSITIONAL ISSUES:
====================
- renin and angiotension are pending at discharge

 
Brief Hospital Course:
___ y/o M with sCHF (EF 25% based on mibi) presenting with acute 
on chronic systolic CHF exacerbation in the setting of 
hypertensive urgency/emergency.  
 
ACTIVE ISSUES:
=================
#. Acute on chronic sCHF exacerbation: EF ___ based on MIBI, 
last TTE was performed in ___ showed 45-50%. In ___, he had a 
HIV and HCV negative, and normal TSH, Ferritin, ___. It is most 
likely an idiopathic dilated cardiomyopathy at this point, 
potentially related to HTN. He underwent Right and left heart 
cath on admission. His wedge pressure was 28 on cardiac cath. He 
had no obstructing coronary lesions on LHC and no interventions 
were performed. Precipitating event most likely is uncontrolled 
hypertension, but there is concern for medication noncompliance 
and dietary indiscretions. He was diuresed using lasix 40mg IV 
BID with an admission weight of 92.5kg. His blood pressure 
controlled as below. He was transitioned to torsemide 80mg 
daily. Discharge weight was 89.3kg. He was continued on 
carvedilol. Lisinopril was held because of his acute kidney 
injury. Spironolactone was restarted at discharge.

# Acute Kidney Injury: Unclear if it is secondary to potentially 
hypertensive emergency vs poor forward flow secondary to CHF. 
Baseline Cr appears to be 1.1 based on ___ chemistries from 
___. His Cr improved to 2.3 by discharge. His lisinopril 
was held given ___.
.
# Normocytic Anemia: Approximately at his baseline. Iron studies 
were unremarkable.
.
#. HTN:  BP were 170s in the cath lab and was started on nitro 
gtt that has since been weaned off while at the floor. ___ be 
hypertensive urgency vs. emergency (CP, elevated Cr). No clear 
precipitant. Renin and angiotensin levels were pending at 
discharge. His home carvedilol was continued and his lisinopril 
was held given ___. He was started on hydralazine and isordil 
which controlled his BP in the sbp 100-120 range.
.
CHRONIC ISSUES:
==================
#. CAD/HL: Continued on rosuvastatin, BB, and ASA

TRANSITIONAL ISSUES:
=======================
- Renin and angiotension were pending at the time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Rosuvastatin Calcium 5 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
6. Carvedilol 25 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Rosuvastatin Calcium 5 mg PO DAILY 
4. HydrALAzine 10 mg PO TID 
RX *hydralazine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
5. Isosorbide Dinitrate 10 mg PO TID 
RX *isosorbide dinitrate 10 mg 1 tablet(s) by mouth three times 
a day Disp #*90 Tablet Refills:*0
6. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0
7. Torsemide 80 mg PO DAILY 
RX *torsemide 20 mg 4 tablet(s) by mouth once a day Disp #*120 
Tablet Refills:*0
8. Potassium Chloride 40 mEq PO DAILY 
Hold for K > 
RX *potassium chloride [Klor-Con] 20 mEq 2 by mouth daily Disp 
#*60 Packet Refills:*0
9. Outpatient Lab Work
Please have Chem 10 checked on ___ and faxed to Dr. ___ at 
___. 
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute on Chronic Heart Failure
Secondary: HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___. 

You came to the hospital and had a procedure called a cardiac 
catheterization to look at the blood vessels around your heart. 
You do not have any blockages in those arteries.

Your shortness of breath most likely was from your heart being 
weak causing you to retain fluid. We removed the extra fluid 
with a diuretics through your IV. Your symptoms improved, you 
were discharged with a diuretic called torsemide which you can 
take by mouth. Please take potassium daily and have your kidney 
function and potassium checked on ___.  

It is important to weigh yourself every morning and record it in 
a book. If your weight increases by more than 3 pounds in one 
day you should call your doctor. If you start to feel dizzy or 
are losing weight, also call your doctor because your torsemide 
dose might be too high.
 
Followup Instructions:
___